US09284271B2
2-(6-chloro-5-methyl-2-(triethylsilyl)-1H-indol-3-yl)ethanol was prepared according to method D Step II with 5-chloro-2-iodo-4-methylaniline (1.50 g; 5.61 mmol), 4-(triethylsilyl)but-3-yn-1-ol (2.36 mL; 11.22 mmol), Bis(diphenylphosphino)ferrocene]palladium(II) chloride (0.229 g; 0.280 mmol), lithium chloride (0.237 g; 5.61 mmol) and sodium carbonate (1.19 g; 11.22 mmol) in DMF (14 mL). The crude material was purified by flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in heptane) to afford 1.44 g (79%) of 2-(6-chloro-5-methyl-2-(triethylsilyl)-1H-indol-3-yl)ethanol as a brown oil.

reactant | 5-chloro-2-iodo-4-methylaniline | 5.61 mmol, 1.50 g | ClC=1C(=CC(=C(N)C1)I)C | C7H7ClIN
reactant | 4-(triethylsilyl)but-3-yn-1-ol | 11.22 mmol, 2.36 mL | C(C)[Si](C#CCCO)(CC)CC | C10H20OSi
reactant | lithium chloride | 5.61 mmol, 0.237 g | [Cl-].[Li+]
reactant | sodium carbonate | 11.22 mmol, 1.19 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
catalyst | Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) chloride | 0.280 mmol, 0.229 g | [Pd](Cl)Cl
product | 2-(6-chloro-5-methyl-2-(triethylsilyl)-1H-indol-3-yl)ethanol | 1.44 g, 79% | ClC1=C(C=C2C(=C(NC2=C1)[Si](CC)(CC)CC)CCO)C | C17H26ClNOSi
